US08895688B2
3-Azidophenol
An aqueous solution (15 mL) of NaNO2 (3.79 g, 54.98 mmol) was added dropwise to 3-aminophenol (5.0 g, 45 mmol) in 2 N HCl (100 mL) at 0-5° C. The solution was stirred for 30 minutes, followed by addition of an aqueous solution of sodium azide (4.5 g, 69 mmol, in 35 mL water). The mixture was stirred at room temperature for 24 h, and extracted with 300 mL of ethyl acetate. The combined organic layer was washed with water, and dried over MgSO4. Solvents were removed by rotary evaporation, and the residue was purified by column chromatography (EtOAc/hexanes, 1/4) to give the desired product as a dark red oil (4.52 g, 73% yield): 1H NMR (acetone-d6, 300 MHz, ppm): 8.69 (s, 1H, Ar—OH), 7.24 (t, 1H, J=8.1 Hz, Ar—H), 6.70-6.53 (m, 3H, Ar—H). 13C NMR (CDCl3, 75 MHz, ppm): 157.2, 141.6, 130.9, 112.4, 111.5, 106.5. FT-IR (cm−1): 3348, 2109.

reactant | NaNO2 | 54.98 mmol, 15 mL, 3.79 g | N(=O)[O-].[Na+]
reactant | 3-aminophenol | 45 mmol, 5.0 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium azide | 69 mmol, 35 mL, 4.5 g | [N-]=[N+]=[N-].[Na+]
solvent | HCl | 2 N, 100 mL | Cl | ClH
product | 3-Azidophenol | 4.52 g, 73% yield | N(=[N+]=[N-])C=1C=C(C=CC1)O | C6H5N3O
